US07618973B2
a) 5-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyrazine-2-carboxylic acid methyl ester
A solution of (5-methyl-3-phenyl-4-isoxazolyl)methylamine (2.4 g, 12.7 mmol) and 5-chloro-pyrazine-2-carboxylic acid methyl ester (2.2 g, 12.7 mmol) in DMSO (15 mL) was heated with microwave irradiation to 160° C. for 30 min. After cooling to room temperature the reaction mixture was extracted (ethyl acetate/water). The organic phase was dried over sodium sulfate, concentrated and chromatographed (SiO2, heptane:ethyl acetate=100:0 to 20:80). The oily product obtained was triturated with diisopropylether and ethyl acetate to afford the title compound (3.5 g, 84% as an off-white solid. MS: m/e=325.4 [M+H]+.

reactant | (5-methyl-3-phenyl-4-isoxazolyl)methylamine | 12.7 mmol, 2.4 g | CC1=C(C(=NO1)C1=CC=CC=C1)CN | C11H12N2O
reactant | 5-chloro-pyrazine-2-carboxylic acid methyl ester | 12.7 mmol, 2.2 g | COC(=O)C1=NC=C(N=C1)Cl | C6H5ClN2O2
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | 5-[(5-Methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N4O3
